US07868036B2
U 2-Methyl-2-pyridin-2-yl-propionic acid
A solution of 0.275 g of 2-methyl-2-pyridin-2-yl-propionic acid methyl ester [CAS 476429-22-8] in 10 ml of methanol at room temperature is admixed with 3.65 ml of 1M aqueous lithium hydroxide solution. After stirring for 12 hours, the reaction mixture is adjusted to pH 6-7 with 1M HCl and concentrated by evaporation. The residue is dissolved in 60 ml of 5:1 ethyl acetate/methanol, dried over sodium sulphate and concentrated by evaporation to provide the crude title compound as a yellow solid which is used without further purification.

reactant | 2-methyl-2-pyridin-2-yl-propionic acid methyl ester | 0.275 g | COC(C(C)(C1=NC=CC=C1)C)=O | C10H13NO2
reactant | lithium hydroxide | 1M, 3.65 ml | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-Methyl-2-pyridin-2-yl-propionic acid | CC(C(=O)O)(C)C1=NC=CC=C1 | C9H11NO2
